Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / hydrocodone / Penicillins / Reglan / fish oil
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
___ coronary catheterization 

attach
 
Pertinent Results:
ADMISSION LABS
===============

___ 04:18PM BLOOD WBC-6.8 RBC-5.39* Hgb-13.4 Hct-42.4 
MCV-79* MCH-24.9* MCHC-31.6* RDW-14.9 RDWSD-42.0 Plt ___
___ 06:45AM BLOOD WBC-7.0 RBC-5.72* Hgb-14.3 Hct-45.6* 
MCV-80* MCH-25.0* MCHC-31.4* RDW-15.0 RDWSD-43.0 Plt ___
___ 04:18PM BLOOD Neuts-60.8 ___ Monos-6.9 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-4.13 AbsLymp-1.96 AbsMono-0.47 
AbsEos-0.16 AbsBaso-0.04
___ 04:18PM BLOOD Plt ___
___ 04:18PM BLOOD Glucose-92 UreaN-15 Creat-0.7 Na-142 
K-4.0 Cl-104 HCO3-24 AnGap-14
___ 06:45AM BLOOD Glucose-98 UreaN-14 Creat-0.7 Na-141 
K-4.5 Cl-105 HCO3-23 AnGap-13
___ 04:18PM BLOOD Calcium-9.6 Phos-4.2 Mg-2.2
___ 06:45AM BLOOD Calcium-9.9 Phos-4.1 Mg-2.0 Cholest-267*
___ 06:45AM BLOOD %HbA1c-6.1* eAG-128*
___ 06:45AM BLOOD Triglyc-70 HDL-58 CHOL/HD-4.6 
LDLcalc-195*

DISCHARGE LABS
=============

___ 05:50AM BLOOD WBC-6.6 RBC-5.36* Hgb-13.4 Hct-42.4 
MCV-79* MCH-25.0* MCHC-31.6* RDW-14.8 RDWSD-42.3 Plt ___
___ 06:45AM BLOOD Neuts-55.4 ___ Monos-6.0 Eos-3.2 
Baso-0.9 Im ___ AbsNeut-3.86 AbsLymp-2.37 AbsMono-0.42 
AbsEos-0.22 AbsBaso-0.06
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-94 UreaN-17 Creat-0.8 Na-142 
K-4.2 Cl-103 HCO3-24 AnGap-15
___ 05:50AM BLOOD Calcium-9.3 Phos-4.7* Mg-2.0
___ 08:44PM BLOOD CK-MB-1 cTropnT-<0.01
___ 04:18PM BLOOD cTropnT-<0.01
___ 04:18PM BLOOD CK(CPK)-69

IMAGING
==========
STRESS

IMPRESSION: 
  
1. Reversible, medium sized, moderate severity perfusion defect 
involving the 
RCA territory. 
  
2. Reversible, small, mild perfusion defect involving the LAD 
territory. 

CATH
No angiographically apparent coronary artery disease.
• Tortuous coronary arteries

 
Brief Hospital Course:
=======
SUMMARY
=======
___ woman with PMH HTN, asthma, and sickle cell trait who 
presents with chest tightness and pleuritic chest pain ___ 
___ who was admitted after a positive pharmacologic stress MIBI 
with concern for CAD. She had a cardiac catheterization ___ 
and was not found to have any intervenable lesions.

===================
TRANSITIONAL ISSUES 
===================
New Medications: carvedilol 3.25mg BID, amlodipine 2.5mg daily
Discontinued Medications: none

[] Follow up with PCP regarding BP control.  Newly on carvedilol 
3.25mg BID, resumed amlodipine 2.5mg daily after not regularly 
taking.
[] Follow up her A1C which is in the pre-diabetes 6.1%. 
[] Follow up lipids: LDL is 195. 

============
ACUTE ISSUES
============
# Unstable Angina s/p coronary catheterization without CAD 
Patient presenting for 2 days of concerning chest pain who was 
found to have TWI V3-V6 in with troponins within normal limits.  
Patient does not have a known history of coronary disease 
although her brother had an MI at age ___.  PE not likely as 
D-dimer not elevated, despite family history of a blood clot. 
She had a Stress-MIBI which showed two reversible defects - 
moderate in RCA distribution and small in LAD distribution. She 
underwent cardiac catheterization ___ with no intervenable 
lesions. 

# HTN
Patient is written for amlodipine 2.5mg daily at home in the 
past which she did not take. Her blood pressure has been 
elevated in the 160s prior to arrival and had improved on 
carvedilol 3.25mg BID and amlodipine 2.5mg daily and was 
discharged with these meds. Blood pressure medications should be 
titrated and adjusted as an outpatient.

# ASCVD Risk Factors
# HLD
# Pre-DM
This admission Total Chol 267 Trig 70 HDL 58 LDL-calc 195. HA1C 
of 6.1 shows pre-DM, had been in pre-DM range as an outpatient 
in the past.  Statin therapy should be considered as an 
outpatient given her LDL > 190 (195).  Exercise and diet 
modifications should be encouraged. LFTs should be evaluated as 
an outpatient for concern of non-alcoholic hepatic liver injury.

==============
CHRONIC ISSUES
==============
# Asthma
She initially thought her chest tightness ___ was due to asthma 
exacerbation however not controlled.  In ED was given prednisone 
60mg PO x1.  She had not required any nebulizers nor steroid 
treatment since then. This should be managed as an outpatient.

# CODE STATUS:  full presumed
# CONTACT : ___ (son) ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
2. amLODIPine 2.5 mg PO DAILY 

 
Discharge Medications:
1.  CARVedilol 3.125 mg PO BID  
2.  amLODIPine 2.5 mg PO DAILY  
3.  Clobetasol Propionate 0.05% Cream 1 Appl TP BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
=======
Chest pain concerning for unstable angina
Hypertension

SECONDARY
=========
Asthma
Pre-Diabetes
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because of shortness of breath and chest 
pain
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a stress test that showed a possible blockage in the 
arteries of your heart, however when the arteries were 
investigated with a catheterization, it showed that you did not 
have any blockages.

- You were noted to have high blood pressure, so you were 
started on medication to lower the blood pressure.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please take your medications as prescribed and go to your 
doctor appointments.
 
Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,
Your ___ Healthcare Team  
 
Followup Instructions:
___